US03953436
Benzhydryl 7-(2-thienylacetamido)-3-formyl-2-cephem-4-carboxylate (21.5 g., 41.5 mmol.) was combined with 11.6 ml. of ethylene glycol (0.2 mole) and toluenesulfonic acid monohydrate (0.197 g., 1.04 mmol.) in 500 ml. benzene. The mixture was refluxed for 10 hours using a Dean-Stark trap (1.5 ml. water collected), cooled, and evaporated in vacuo to dryness. The product was taken up in ethyl acetate and washed successively with sodium bicarbonate solution (2X), water (2X) and sodium chloride solution and subsequently dried over Na2SO4. Evaporation in vacuo to dryness gave a product which was chromatographed on 40 g. of silica gel using a benzene-ethyl acetate gradient. Crystallization of the purified product from methylene chloride-hexane gave benzhydryl 7(2-thienylacetamido)-3-(1,3-dioxolan-2-yl)-2-cephem-4-carboxylate as colorless needles (15.07 g., 64.2%): mp 142°-143°; ir (CHCl3) 1780 cm-1 (β-lactam C = 0); nmr (CDCl3) 3.3-3.9 (m, 4, --CH2 --CH2 --), 3.83 (s, 2, side chain CH2), 5.10 (d, 1, J = 4.0 Hz, C6 -H), 5.17 (s, 1, acetal CH), 5.21 (s, 1, C4 -H) and 5.45 ppm (q, 1, J = 4.0 and 8.0 Hz, C7 -H).

reactant | Benzhydryl 7-(2-thienylacetamido)-3-formyl-2-cephem-4-carboxylate | 41.5 mmol, 21.5 g | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)C=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H22N2O5S2
reactant | ethylene glycol | 0.2 mole | C(CO)O | C2H6O2
reactant | toluenesulfonic acid monohydrate | 1.04 mmol, 0.197 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
solvent | benzene | C1=CC=CC=C1 | C6H6
product | benzhydryl 7(2-thienylacetamido)-3-(1,3-dioxolan-2-yl)-2-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)C2OCCO2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H26N2O6S2
